US04661607
A mixture of 4-allyl-2-bromo-3-hydroxy-9-oxo-9H-xanthene (3.0 g), m-chloroperbenzoic acid (10 g) and chloroform (250 ml) was stirred at room temperature for 5 hours and thereafter left to stand overnight. To the mixture, potassium carbonate (20 g) and water (400 ml) were added and the resulting mixture was extracted with chloroform. The chloroform layer was dried and the solvent distilled off. The residue was dissolved in acetone (300 ml) and, to the stirred solution, a mixture of chromium trioxide (5 g), water (25 ml) and concentrated sulfuric acid (8 g) was added dropwise at room temperature. After standing overnight, the mixture was filtered and the filtrate was evaporated to dryness under vacuum. After addition of water, the solid crystal was recovered by filtration, washed with water and dried. Recrystallization from ethanol gave 1.5 g of 4-bromo-1,2-dihydro-6-oxo-6H-furo[2,3-c]xanthene-2-carboxylic acid. m.p. 283°-286° C. This compound showed a mass spectrum having a molecular ion peak at m/e 360.

reactant | 4-allyl-2-bromo-3-hydroxy-9-oxo-9H-xanthene | 3.0 g | C(C=C)C1=C(C(=CC=2C(C3=CC=CC=C3OC12)=O)Br)O | C16H11BrO3
reactant | m-chloroperbenzoic acid | 10 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 400 ml | O | H2O
product | 4-bromo-1,2-dihydro-6-oxo-6H-furo[2,3-c]xanthene-2-carboxylic acid | 1.5 g | BrC1=CC=2C(C=3C=CC=CC3OC2C2=C1OC(C2)C(=O)O)=O | C16H9BrO5
